US08604055B2
Step (i): Synthesis of 2-(4-cyclohexylmethyl-piperazin-1-yl)-quinoline-3-carbaldehyde
1-(Cyclohexylmethyl)piperazine (0.42 mL, 2.2 mmol) was added to a mixture of 2-chloro-3-quinolinecarboxaldehyde (0.383 g, 2.0 mmol) and potassium carbonate (0.7 g, 5.0 mmol) in anhydrous DMF (4 mL) at ambient temperature under a nitrogen atmosphere. After being stirred for 20 minutes, the reaction mixture was heated at 110° C. for 4.5 h. After cooling to room temperature this mixture was diluted with water (40 mL) and extracted with ethyl acetate (3×30 mL). The combined organic extracts were washed with brine, dried over sodium sulfate, filtered, and then concentrated under vacuum to give a pale brown crude product. Purification by silica gel column chromatography and eluting with 2.5% methanol in dichloromethane afforded the title compound (0.56 g, yield: 86%).

reactant | 1-(Cyclohexylmethyl)piperazine | 2.2 mmol, 0.42 mL | C1(CCCCC1)CN1CCNCC1 | C11H22N2
reactant | 2-chloro-3-quinolinecarboxaldehyde | 2.0 mmol, 0.383 g | ClC1=NC2=CC=CC=C2C=C1C=O | C10H6ClNO
reactant | potassium carbonate | 5.0 mmol, 0.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | 40 mL | O | H2O
product | 2-(4-cyclohexylmethyl-piperazin-1-yl)-quinoline-3-carbaldehyde | 0.56 g, yield: 86% | C1(CCCCC1)CN1CCN(CC1)C1=NC2=CC=CC=C2C=C1C=O | C21H27N3O
